US08536183B2
(3S)-3-methyl-1-{[2-methyl-5-(trifluoromethyl)phenyl]sulfonyl}piperazine
1,1-dimethylethyl (2S)-2-methyl-4-{[2-methyl-5-(trifluoromethyl)phenyl]sulfonyl}-1-piperazinecarboxylate (may be prepared as described in Description 26) (2.1 g, 4.97 mmol) in 1,4-Dioxane (50 mL) was treated by 4 M HCl in dioxane (6.21 mL, 24.85 mmol). The reaction mixture was stirred overnight at room temperature. LCMS showed a 1:1 ratio between starting material and expected product. 4 M HCl in dioxane (6.21 mL, 24.85 mmol) was added and the reaction mixture stirred for 4 h. LCMS showed about 10% of remaining starting material. 4 M HCl in dioxane (6.21 mL, 24.85 mmol) was added and the reaction mixture stirred for 1 h.

reactant | 1,1-dimethylethyl (2S)-2-methyl-4-{[2-methyl-5-(trifluoromethyl)phenyl]sulfonyl}-1-piperazinecarboxylate | 4.97 mmol, 2.1 g | C[C@@H]1N(CCN(C1)S(=O)(=O)C1=C(C=CC(=C1)C(F)(F)F)C)C(=O)OC(C)(C)C | C18H25F3N2O4S
reactant | HCl | 4 M | Cl | ClH
solvent | 1,4-Dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 24.85 mmol, 6.21 mL | O1CCOCC1 | C4H8O2
product | (3S)-3-methyl-1-{[2-methyl-5-(trifluoromethyl)phenyl]sulfonyl}piperazine | C[C@H]1CN(CCN1)S(=O)(=O)C1=C(C=CC(=C1)C(F)(F)F)C | C13H17F3N2O2S
